Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])=[C:11]=[C:12]([H:13])[H:14]>>[C:6]([H:7])([H:8])[C:9]([H:10])=[C:11]=[C:12]([H:13])[H:14].[H:1][O:2][C:3]([H:4])[H:5],3.19900610158
[H:1][C:2][O:3][C:4]([H:5])([H:6])[O:7][C:8]([H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1][C:2][O:3][C:4]([H:5])[H:6].[O:7]=[C:8]([H:9])[C:10]([H:11])([H:12])[H:13],0.699615917449
[H:1][C:2]#[C:3][O:4][C:5]([H:6])([H:7])[C:8]([H:9])=[C:10]([H:11])[H:12]>>[C:10]([H:11])[H:12].[H:1][C:2]#[C:3][O:4][C:5]([H:6])([H:7])[C:8][H:9],8.52641470835
[H:12].[H:1][C:2]([H:3])=[C:4]=[C:5]([H:6])[C@:7]([H:8])([C:9]([H:10])[H:11])[C:13]([H:14])([H:15])[H:16]>>[H:1][C:2]([H:3])=[C:4]=[C:5]([H:6])[C:7]([H:8])([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16],-4.58219135222
[H:3].[O:1]=[C:2][O:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11]>>[O:1]=[C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11],-4.405948349719999
[H:1][C:2]=[C:3]([H:4])/[C:5](=[C:6](\[H:7])[C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1][C:2]=[C:3]([H:4])/[C:5](=[C:6]/[C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15].[H:7],5.0460188854400005
[O:1][C:2]#[C:3][C:4](=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[H:11]>>[C:4](=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[H:11].[O:1][C:2][C:3],4.91044750233
[C:13]([H:14])([H:15])[H:16].[H:1][C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[O:12]>>[H:1][C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[O:12][C:13]([H:14])([H:15])[H:16],-3.75259786847
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17]>>[C:9]([C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17].[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])[H:8],4.54114379632
[C:11]([H:12])[H:13].[H:1][C:2]([H:3])[O:4][C:5]([H:6])=[C:7]=[C:8]([H:9])[H:10]>>[H:1][C:2]([H:3])[O:4]/[C:5]([H:6])=[C:7]/[C:8]([H:9])([H:10])[C:11]([H:12])[H:13],-2.0281283599
[H:1][C:2][O:3][C:4](=[C:5]=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[H:12]>>[H:1][C:2][O:3][C:4]([C:5]#[C:6][H:7])[C:9]([H:10])([H:11])[H:12].[H:8],3.98604294856
[H:1][O:2][C@@:3]([H:4])([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[C:15]([H:16])([H:17])[H:18]>>[H:1][O:2][C@:3]([H:4])([C:5]([H:6])[H:7])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[C:15]([H:16])([H:17])[H:18].[H:8],4.5802702041000005
[H:12].[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]=[C:13]([H:14])[H:15]>>[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])=[C:13]([H:14])[H:15],-4.764102598430001
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C@@:9]([H:10])([O:11][H:12])[C:13]([H:14])([H:15])[H:16]>>[C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C@@:9]([H:10])([O:11][H:12])[C:13]([H:14])([H:15])[H:16].[H:1][O:2],5.40434006218
[H:1][C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8](=[C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1][C:2][H:3].[O:4][C:5]([H:6])([H:7])[C:8](=[C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],5.11898750241
[C:12]([H:13])([H:14])[H:15].[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10][H:11]>>[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[C:12]([H:13])([H:14])[H:15],-4.88985620439
[C:1][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13].[C:2]1([H:3])=[C:4]([H:5])[C:6]1>>[C:1]=[C:2]([H:3])[C:4]([H:5])[C:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13],-3.0108548347000004
[H:9].[O:1]=[C:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])[C:10]([H:11])([H:12])[H:13]>>[O:1]=[C:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13],-4.242985711269999
[H:5].[O:1]=[C:2]=[C:3]([H:4])[O:6][C:7]([H:8])[H:9]>>[O:1]=[C:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])[H:9],-2.43548696321
[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]1=[C:8]([H:9])[C:10]([H:11])([H:12])[C:13]1([H:14])[H:15]>>[C:4]([H:5])([H:6])[C:7]1=[C:8]([H:9])[C:10]([H:11])([H:12])[C:13]1([H:14])[H:15].[H:1][C:2][H:3],5.22064092208
[H:1][C:2]([H:3])[O:4][C:5][C:6](=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[C:7]([H:8])[H:9].[H:1][C:2]([H:3])[O:4][C:5]#[C:6][C:10]([H:11])([H:12])[H:13],4.06302728596
[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C@@:8]([H:9])([O:10][H:11])[C:12]([H:13])[H:14]>>[H:1][C:2]#[C:3][C:5]([H:6])([H:7])[C@:8]([H:9])([O:10][H:11])[C:12]([H:13])[H:14].[H:4],1.86295304125
[H:1][O:2][C:3]([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15].[O:4]=[C:5]([H:6])[H:7]>>[H:1][O:2][C:3]([O:4][C:5]([H:6])[H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-0.743993161311
[H:11].[O:1]=[C:2]([H:3])[C:4]([C:5][O:6][H:7])=[C:8]([H:9])[H:10]>>[O:1]=[C:2]([H:3])/[C:4](=[C:5]/[O:6][H:7])[C:8]([H:9])([H:10])[H:11],-3.42695327364
[C:11]([H:12])([H:13])[H:14].[O:1]=[C:2]=[C:3]([C:4]([H:5])[H:6])[C:7]([H:8])([H:9])[H:10]>>[O:1]=[C:2]([C:3](=[C:4]([H:5])[H:6])[C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],-3.68970371026
